US07531668B2
Production of 5-(benzyloxy)-N-{4-[2-(diethylamino)ethoxy]phenyl}-1H-indole-2-carboxamide
The entitled compound was obtained as a white solid in the same manner as in Example 1-1 but using 5-hydroxyindole-2-carboxylic acid and 4-[2-(diethylamino)ethoxy]aniline.

reactant | 5-hydroxyindole-2-carboxylic acid | OC=1C=C2C=C(NC2=CC1)C(=O)O | C9H7NO3
reactant | 4-[2-(diethylamino)ethoxy]aniline | C(C)N(CCOC1=CC=C(N)C=C1)CC | C12H20N2O
product | 5-(benzyloxy)-N-{4-[2-(diethylamino)ethoxy]phenyl}-1H-indole-2-carboxamide | C(C1=CC=CC=C1)OC=1C=C2C=C(NC2=CC1)C(=O)NC1=CC=C(C=C1)OCCN(CC)CC | C28H31N3O3
